US05633279
The 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-1-methylcyclopent-2-en-1-ylacetaldehyde was dissolved in dioxane (8 mL) and pH 5 buffer (3 mL) and treated with resorcinol (0.10 g). To this mixture was then added sodium chlorite (0.080 g). After 2 minutes, the reaction was diluted with ethyl acetate and made acidic with 5% hydrochloric acid. After two extractions with ethyl acetate, the combined organic layers were dried over magnesium sulfate. The residue, 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-1-methylcyclopent-2-en-1-ylacetic acid obtained after solvent removal was carried on without further purification.

reactant | 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-1-methylcyclopent-2-en-1-ylacetaldehyde | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC(CC1)(C)CC=O | C26H28O7S
reactant | resorcinol | 0.10 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | sodium chlorite | 0.080 g | Cl(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1,3-dihydro-6-methoxy-7-methyl-3-oxo-4-p-toluenesulfonyloxy-5-isobenzofuranylmethyl)-1-methylcyclopent-2-en-1-ylacetic acid | COC1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC(CC1)(C)CC(=O)O | C26H28O8S
